US05006563
A solution of 4.0 g of 4-bromo-N,N-dimethylaniline in 50 ml of dry tetrahydrofuran at -78° C. was treated with 23.5 ml of 1.7M tert-butyllithium in pentane under nitrogen over 5 minutes with rapid stirring. After 0.5 hour, the slurry was warmed to -30° C. and added to a solution of 4.0 g of α,α-difluorophenylacetate in 50 ml of dry tetrahydrofuran at -78° C. After 1 hour at -78° C., the solution was allowed to warm to room temperature and stirred overnight. The solution was poured into water and extracted with ethyl acetate. Evaporation left a solid which was purified by flash chromatography (1:1 ethyl acetate-hexane) to give a powder. Recrystallization from ethyl acetate-hexane gave 1.75 g of 2,2-difluoro-1-[4-(dimethylamino)phenyl]-2-phenylethanone, m.p. 115°-116° C.

reactant | 4-bromo-N,N-dimethylaniline | 4.0 g | BrC1=CC=C(N(C)C)C=C1 | C8H10BrN
reactant | tert-butyllithium | 1.7M, 23.5 ml | C(C)(C)(C)[Li]
reactant | α,α-difluorophenylacetate | 4.0 g | FC(C(=O)[O-])(F)C1=CC=CC=C1
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,2-difluoro-1-[4-(dimethylamino)phenyl]-2-phenylethanone | 1.75 g | FC(C(=O)C1=CC=C(C=C1)N(C)C)(C1=CC=CC=C1)F | C16H15F2NO
